US07585886B2
A 5 ml acetone solution of 260 mg of tert-butyl {[(3R,4S)-1-(4-hydroxybenzoyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate obtained from tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate and 4-hydroxybenzoic acid, by amidation in the same manner as in Reference Example 19, was mixed with 130 mg of potassium carbonate, and then the reaction solution was mixed with 0.1 ml of ethyl bromoacetate and heated under reflux for 3 hours. After cooling down to room temperature, the insoluble matter was removed by filtration, and the filtrate was concentrated under a reduced pressure. The residue was purified by a silica gel column chromatography (hexane-ethyl acetate) to obtain 264 mg of ethyl (4-{[(3R,4S)-3-({(tert-butylcarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)acetate a colorless amorphous substance. FP: 637.

reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | tert-butyl {[(3R,4S)-1-(4-hydroxybenzoyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate | 260 mg | OC1=CC=C(C(=O)N2C[C@@H]([C@H](C2)C2=CC=CC=C2)CN(C(OC(C)(C)C)=O)[C@H](C)C2=CC=CC3=CC=CC=C23)C=C1 | C35H38N2O4
